US07589089B2
Step 2: N-[(3,4-Dichloro-phenylcarbamoyl)-methyl]-N-isobutyl-4-methoxy-benzamide
To a solution of N-(3,4-dichloro-phenyl)-2-isobutylamino-acetamide hydrobromide (0.090 g) in THF were slowly added a solution of triethylamine (0.064 mg) in THF (5 mL) and a solution of 4-methoxybenzoyl chloride (47 mg) in THF (5 mL) and the reaction mixture was stirred at room temperature for 24 hours. Then water was added to the reaction mixture and the precipitate was isolated by filtration and then purified by column chromatography to yield the title compound (78 mg). MS (m/e): 409.2 (M−H, 100%).

reactant | N-(3,4-dichloro-phenyl)-2-isobutylamino-acetamide hydrobromide | 0.090 g | Br.ClC=1C=C(C=CC1Cl)NC(CNCC(C)C)=O
reactant | 4-methoxybenzoyl chloride | 47 mg | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | triethylamine | 0.064 mg | C(C)N(CC)CC | C6H15N
product | N-[(3,4-Dichloro-phenylcarbamoyl)-methyl]-N-isobutyl-4-methoxy-benzamide | 78 mg | ClC=1C=C(C=CC1Cl)NC(=O)CN(C(C1=CC=C(C=C1)OC)=O)CC(C)C | C20H22Cl2N2O3
